US06586616B1
(R)-4-cyano-3-hydroxybutyric acid (1.0 mol) in isobutanol (500 ml) and conc. sulfuric acid (5 g) were refluxed for 5 hours. The reaction mixture was neutralized with sodium carbonate and filtered. The filtrate was concentrated in vacuo to afford (R)-4-cyano-3-hydroxybutyric acid isobutyl ester (157 g, 92%).

reactant | (R)-4-cyano-3-hydroxybutyric acid | 1.0 mol | C(#N)C[C@H](CC(=O)O)O | C5H7NO3
reactant | sulfuric acid | 5 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | isobutanol | 500 ml | C(C(C)C)O | C4H10O
product | (R)-4-cyano-3-hydroxybutyric acid isobutyl ester | 157 g, 92% | C(C(C)C)OC(C[C@@H](CC#N)O)=O | C9H15NO3
